### PR TITLE
contrib order

### PR DESCRIPTION
**Pull request by pPomCo**
##### Motivation for this change

Add several lemmas about `bigmin` and `bigmax`

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [x] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -3581,8 +3663,203 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+- rewrite bigmax_mkcond.
+  apply: bigmax_le=>[|j _].
+  + by rewrite bigmax_idl le_max lexx orTb.
+  + case (boolP (j \in [set h x0 | x0 in A]))=>H ;
+      last by rewrite bigmax_idl le_max lexx orTb.
+    have [i Hi ->] := imsetP H.
+    exact: le_bigmax_cond.
+Qed.
+
+Lemma bigminS [I : finType] (x : T) (P : pred I) (F : I -> T) :
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3831]: `S` is usually used for `_.+1` in nat, to sure it it the good name here. Anyway, I also wonder whether this shouldn't be generalized in bigop.

**Review by proux01 — COMMENTED** [review]
Thanks for your contribution. This mostly looks good but I feel like some of the last lemmas should be generalized in bigop.v. Otherwise I left a few hints to maybe shorten proofs and a few nitpickings about style.

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -3330,6 +3330,42 @@ Lemma bigmax_mkcond P F :
...
+by case (P i) ; case (Q i).
+Qed.
+
+Lemma bigmin_mkcondr P Q F :
+  \big[min/x]_(i <- r | P i && Q i) F i
+  = \big[min/x]_(i <- r | P i) if Q i then F i else x.
+Proof.
+rewrite bigmin_mkcond [in RHS]bigmin_mkcond.
+apply: eq_bigr=>i _.
+by case (P i) ; case (Q i).
```
[the remark this answers is not in the document]
Comment (pPomCo) [reply mathcomp/ssreflect/order.v]: Updated, thanks.

File: mathcomp/ssreflect/order.v [hunk 3]
```diff
@@ -3467,6 +3503,52 @@ Lemma subset_bigmax_cond [x0] (I : finType) (A A' P P' : {pred I}) (F : I -> T)
...
+Implicit Types (P : pred I) (F : I -> T).
+
+Lemma bigmin_idx P F : \big[min/x]_(i <- r | P i) F i <= x.
+Proof.
+induction r.
+- by rewrite bigop.unlock.
+- apply: (le_trans _ IHl).
+  apply: sub_bigmin_cond=>i.
+  rewrite !/(_\in_)/mem//=.
+  by case (P a)=>//=-> ; rewrite orbT.
```
[the remark this answers is not in the document]
Comment (pPomCo) [reply mathcomp/ssreflect/order.v]: It is indeed much simpler, thanks.

File: mathcomp/ssreflect/order.v [hunk 4]
```diff
@@ -3467,6 +3503,52 @@ Lemma subset_bigmax_cond [x0] (I : finType) (A A' P P' : {pred I}) (F : I -> T)
...
+Qed.
+
+Lemma bigmin_idx_le P F :
+  (forall i, P i -> x <= F i) -> \big[min/x]_(i <- r | P i) F i = x.
+Proof.
+rewrite bigop.unlock=>Hle.
+induction r=>//.
+case (boolP (P a))=>Ha/= ; last by rewrite (negbTE Ha).
+by rewrite IHl minElt ltNge Hle Ha.
```
[the remark this answers is not in the document]
Comment (pPomCo) [reply mathcomp/ssreflect/order.v]: Thanks (`bigmin_geP` does not fit since it is only for finTypes, but `le_bigmin` does)

**Comment by proux01** [comment]
@pPomCo if possible, try to push al your commits at once rather than one after the other, it limits the spam sent to everyone and avoids relaunching the CI every few minutes.

**Comment by pPomCo** [comment]
> @pPomCo if possible, try to push al your commits at once rather than one after the other, it limits the spam sent to everyone and avoids relaunching the CI every few minutes.

Oops sorry I should have seen this message as soon as you post it (and even thought of it by myself). Mea culpa, I'll take care of it from now.

**Comment by proux01** [comment]
no worries

File: mathcomp/ssreflect/order.v [hunk 5]
```diff
@@ -3581,8 +3630,171 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigminD (A B : {set I}) F :
+  \big[min/x]_(i in B) F i <= \big[min/x]_(i in B :\: A) F i.
+Proof. by apply: sub_bigmin=> t; rewrite in_setD=> /andP [_->]. Qed.
+
+Lemma bigmaxU (A B : {set I}) F :
+  \big[max/x]_(i in A :|: B) F i = max (\big[max/x]_(i in A) F i) (\big[max/x]_(i in B) F i).
+Proof.
+apply: le_anti; rewrite maxEle.
+case (boolP (\big[max/x]_(i in A) F i <= \big[max/x]_(i in B) F i));
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3677]: You may want to use `case: leP` or something similar.

File: mathcomp/ssreflect/order.v [hunk 6]
```diff
@@ -3581,8 +3630,171 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+  rewrite -?ltNge=> Hle; rewrite ?bigmaxUr ?bigmaxUl andbT;
+  apply: bigmax_le=> [|i]; rewrite ?bigmax_ge_id// inE=> /orP ; case=>Hi.
+- exact: le_trans (le_bigmax_cond _ Hi) Hle.
+- exact: le_bigmax_cond.
+- exact: le_bigmax_cond.
+- by apply: ltW; exact: le_lt_trans (le_bigmax_cond _ Hi) Hle.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3684]: a bit shorter
```suggestion
Lemma bigmaxU (A B : {set I}) F :
  \big[max/x]_(i in A :|: B) F i = max (\big[max/x]_(i in A) F i) (\big[max/x]_(i in B) F i).
Proof.
apply: le_anti; rewrite ge_max bigmaxUl bigmaxUr !andbT; apply/bigmax_leP.
split=> [|i /[!in_setU]/orP[iA|iB]]; first by rewrite le_max bigmax_ge_id.
- by rewrite le_max le_bigmax_cond.
- by rewrite le_max orbC le_bigmax_cond.
Qed.
```

File: mathcomp/ssreflect/order.v [hunk 7]
```diff
@@ -3581,8 +3663,203 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigmin_set1 j F : \big[min/x]_(i in [set j]) F i = min x (F j).
+Proof.
+rewrite minEle.
+case (boolP (x <= F j))=>H ; first by apply: bigmin_idx_le=>i /set1P->.
+apply/eqP ; rewrite eq_le ; apply/andP ; split.
+- apply: bigmin_le_cond ; by rewrite in_set1.
+- apply: le_bigmin=>[|i /set1P->//].
+  by rewrite leNgt lt_leAnge (negbTE H) andFb.
```
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/order.v:3706]: For instance (the first lemma should go into bigop)
```suggestion
Lemma big_set1_id (op : SemiGroup.com_law T) x' j F :
  \big[op/x']_(i in [set j]) F i = op x' (F j).
Proof. by rewrite -big_enum enum_set1 big_seq1_id SemiGroup.mulmC. Qed.

Lemma bigmin_set1 j F : \big[min/x]_(i in [set j]) F i = min x (F j).
Proof. exact: big_set1_id. Qed.

Lemma bigmax_set1 j F : \big[max/x]_(i in [set j]) F i = max x (F j).
Proof. exact: big_set1_id. Qed.
```

[the remark this answers is not in the document]
Comment (pPomCo) [reply mathcomp/ssreflect/order.v:3706]: I just push a lemma named `big_set1E` that is even more general on [PR1119](https://github.com/math-comp/math-comp/pull/1119/files#diff-d0cc514a8845c101513cfeb91264e4771ac09b30662edc70a8a254d565643fc6R1384) (for any `op : T -> T -> T`). However, it states that `\big[op/x]_(i in [set j]) F i = op (F j) x`, so commutativity is needed if one wants `... = op x (F j)`.

File: mathcomp/ssreflect/order.v [hunk 8]
```diff
@@ -3581,8 +3663,203 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+  + case (boolP (j \in [set h x0 | x0 in A]))=>H ;
+      last by rewrite bigmin_idl ge_min lexx orTb.
+    have [i Hi ->] := imsetP H.
+    exact: bigmin_le_cond.
+- rewrite [E in _<=E]bigmin_mkcond.
+  apply: le_bigmin=>[|j _].
+  + by rewrite bigmin_idl ge_min lexx orTb.
+  + case (boolP (j \in A))=>H ;
+      last by rewrite bigmin_idl ge_min lexx orTb.
+    by apply: bigmin_le_cond ; first exact: imset_f.
```
[the remark this answers is not in the document]
Comment (pPomCo) [reply mathcomp/ssreflect/order.v:3741]: Pushed `big_imset_idem` in [PR 1119](https://github.com/math-comp/math-comp/pull/1119/files#diff-d0cc514a8845c101513cfeb91264e4771ac09b30662edc70a8a254d565643fc6R1427), I think it is the generic result behind that.
`bigmin_imset`'s proof then becomes: `by apply: big_imset_idem ; exact: minxx.`

File: mathcomp/ssreflect/order.v (hunk 1 above)
Comment (pPomCo) [reply mathcomp/ssreflect/order.v:3766]: 1. Not sure about how to name it. What about `bigmin_mem`? Or `bigmins` (`s` is sometimes used  to denote sets, eg. in `cards1`)?
2. I'll try to generalize it (if I can find which properties it relies on), anyway the question about its name will also occur.

File: mathcomp/ssreflect/order.v [hunk 9]
```diff
@@ -3330,6 +3330,33 @@ Lemma bigmax_mkcond P F :
...
+  = \big[min/x]_(i <- r | P i) if Q i then F i else x.
+Proof. by do 1![under eq_bigl do rewrite andbC]; apply: bigmin_mkcondl. Qed.
+
+Lemma bigmax_mkcondl P Q F :
+  \big[max/x]_(i <- r | P i && Q i) F i
+  = \big[max/x]_(i <- r | Q i) if P i then F i else x.
+Proof.
+rewrite bigmax_mkcond [in RHS]bigmax_mkcond.
+apply: eq_bigr=>i _.
+by case (P i) ; case (Q i).
```
Comment (pPomCo) [inline mathcomp/ssreflect/order.v:3352]:
```suggestion
rewrite bigmax_mkcond [in RHS]bigmax_mkcond.
by apply: eq_bigr=>i _; case (P i) ; case (Q i).
```

File: mathcomp/ssreflect/order.v [hunk 10]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
 
+Lemma bigmin_imset [I J : finType] x [h : I -> J] [A : {set I}] (F : J -> T) :
+  \big[min/x]_(j in [set h x | x in A]) F j = \big[min/x]_(i in A) F (h i).
+Proof. by apply: big_imset_idem; exact: minxx. Qed.
+
+Lemma bigmax_imset [I J : finType] x [h : I -> J] [A : {set I}] (F : J -> T) :
+  \big[max/x]_(j in [set h x | x in A]) F j = \big[max/x]_(i in A) F (h i).
+Proof. by apply: big_imset_idem ; exact: maxxx. Qed.
+
+Lemma bigmin_mem [I : finType] (x : T) (P : pred I) (F : I -> T) :
```
Comment (pPomCo) [inline mathcomp/ssreflect/order.v:3707]: I'm not sure about the name of this lemma

File: mathcomp/ssreflect/finset.v [hunk 11]
```diff
@@ -1385,6 +1396,29 @@ Proof.
...
+Proof.
+rewrite -!big_image=> Hidem; rewrite -big_undup// -[in RHS]big_undup//.
+apply: perm_big; apply: perm_undup=> j; apply/imageP.
+case (boolP (j \in [seq h j | j in A]))=> [Hj | /imageP Hj].
+- by exists j=>//; apply/imsetP; exact: imageP Hj.
+- move=> [k /imsetP [i Hi1 ->] Hi2].
+  by have: exists2 x : I, x \in A & j = h x by exists i.
+Qed.
+
+Lemma big_mem_idem [I : finType] (P : pred I) F :
```
Comment (pPomCo) [inline mathcomp/ssreflect/finset.v:1411]: I'm not sure about the name of this lemma

File: mathcomp/ssreflect/order.v (hunk 9 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:3352]: Yes, plus the style issues with spaces (always a space after `=>`, never before `;`).

File: mathcomp/ssreflect/finset.v [hunk 12]
```diff
@@ -1385,6 +1396,29 @@ Proof.
 by move=> /subsetP AP; apply: sub_le_big => // i; have /[!inE] := AP i.
 Qed.
 
+Lemma big_imset_idem [I J : finType] (h : I -> J) (A : pred I) F :
+  idempotent op ->
+  \big[op/x]_(j in [set h i | i in A]) F j = \big[op/x]_(i | A i) F (h i).
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1401]: I would rather expect
```suggestion
  \big[op/x]_(j in [set h i | i in A]) F j = \big[op/x]_(i in A) F (h i).
```
like in `big_imset`.
There could also be a `big_imset_cond_idem` like `big_imset_cond`.

File: mathcomp/ssreflect/finset.v (hunk 11 above)
Comment (proux01) [reply mathcomp/ssreflect/finset.v:1411]: Honestly, I'm not even sure what it means. What is it useful for?

File: mathcomp/ssreflect/order.v [hunk 13]
```diff
@@ -3330,6 +3330,33 @@ Lemma bigmax_mkcond P F :
   \big[max/x]_(i <- r | P i) F i = \big[max/x]_(i <- r) if P i then F i else x.
 Proof. by rewrite big_mkcond_idem //= maxxx. Qed.
 
+Lemma bigmin_mkcondl P Q F :
+  \big[min/x]_(i <- r | P i && Q i) F i
+  = \big[min/x]_(i <- r | Q i) if P i then F i else x.
+Proof.
+rewrite bigmin_mkcond [in RHS]bigmin_mkcond.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3337]: Would
```suggestion
rewrite bigmin_mkcond [RHS]bigmin_mkcond.
```
work?

File: mathcomp/ssreflect/order.v [hunk 14]
```diff
@@ -3467,6 +3494,28 @@ Lemma subset_bigmax_cond [x0] (I : finType) (A A' P P' : {pred I}) (F : I -> T)
   \big[max/x0]_(i in A | P i) F i <= \big[max/x0]_(i in A' | P' i) F i.
 Proof. exact: subset_le_big_cond. Qed.
 
+
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3497]:
```suggestion
```

File: mathcomp/ssreflect/order.v [hunk 15]
```diff
@@ -3467,6 +3494,28 @@ Lemma subset_bigmax_cond [x0] (I : finType) (A A' P P' : {pred I}) (F : I -> T)
...
+Lemma bigmin_eq_id P F :
+  (forall i, P i -> x <= F i) -> \big[min/x]_(i <- r | P i) F i = x.
+Proof. by move=>Hle; apply: le_anti; rewrite bigmin_le_id le_bigmin. Qed.
+
+Lemma bigmax_eq_id P F :
+  (forall i, P i -> x >= F i) -> \big[max/x]_(i <- r | P i) F i = x.
+Proof. by move=>Hge; apply: le_anti; rewrite bigmax_ge_id bigmax_le. Qed.
+
+End bigminmax_eqType.
+
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3517]:
```suggestion
```

File: mathcomp/ssreflect/order.v [hunk 16]
```diff
@@ -3467,6 +3494,28 @@ Lemma subset_bigmax_cond [x0] (I : finType) (A A' P P' : {pred I}) (F : I -> T)
...
+Lemma bigmin_le_id P F : \big[min/x]_(i <- r | P i) F i <= x.
+Proof. by rewrite bigmin_idl. Qed.
+
+Lemma bigmax_ge_id P F : \big[max/x]_(i <- r | P i) F i >= x.
+Proof. by rewrite bigmax_idl. Qed.
+
+Lemma bigmin_eq_id P F :
+  (forall i, P i -> x <= F i) -> \big[min/x]_(i <- r | P i) F i = x.
+Proof. by move=>Hle; apply: le_anti; rewrite bigmin_le_id le_bigmin. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3510]:
```suggestion
Proof. by move=> le; apply: le_anti; rewrite bigmin_le_id le_bigmin. Qed.
```
(space after `=>` and we usually don't name the hypothesis H... in mathcomp)

File: mathcomp/ssreflect/order.v [hunk 17]
```diff
@@ -3467,6 +3494,28 @@ Lemma subset_bigmax_cond [x0] (I : finType) (A A' P P' : {pred I}) (F : I -> T)
...
+
+Lemma bigmax_eq_id P F :
+  (forall i, P i -> x >= F i) -> \big[max/x]_(i <- r | P i) F i = x.
+Proof. by move=>Hge; apply: le_anti; rewrite bigmax_ge_id bigmax_le. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3514]:
```suggestion
Proof. by move=> ge; apply: le_anti; rewrite bigmax_ge_id bigmax_le. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 18]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
 by rewrite (le_trans ba) // (le_trans _ fe) // ltW.
 Qed.
 
+Lemma bigmaxUl (A B : {set I}) F :
+  \big[max/x]_(i in A) F i <= \big[max/x]_(i in A :|: B) F i.
+Proof. by apply: sub_bigmax=> t; rewrite in_setU=> ->. Qed.
+
+Lemma bigmaxUr (A B : {set I}) F :
+  \big[max/x]_(i in B) F i <= \big[max/x]_(i in A :|: B) F i.
+Proof. under [E in _<=E]eq_bigl do rewrite setUC; exact: bigmaxUl. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3639]: maybe
```suggestion
Proof. by under [leRHS]eq_bigl do rewrite setUC; apply: bigmaxUl. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 19]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigminUl (A B : {set I}) F :
+  \big[min/x]_(i in A) F i >= \big[min/x]_(i in A :|: B) F i.
+Proof. by apply: sub_bigmin=> t; rewrite in_setU=> ->. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3643]:
```suggestion
Proof. by apply: sub_bigmin => t; rewrite in_setU => ->. Qed.
```
(c.f. https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md#spaces space before `=>` except when directly after a tactic like `move`)

File: mathcomp/ssreflect/order.v [hunk 20]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigminUr (A B : {set I}) F :
+  \big[min/x]_(i in B) F i >= \big[min/x]_(i in A :|: B) F i.
+Proof. under [E in _>=E]eq_bigl do rewrite setUC; exact: bigminUl. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3647]: maybe
```suggestion
Proof. by under [leLHS]eq_bigl do rewrite setUC; apply bigminUl. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 21]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigmaxIl (A B : {set I}) F :
+  \big[max/x]_(i in A) F i >= \big[max/x]_(i in A :&: B) F i.
+Proof. by apply: sub_bigmax=> t; rewrite in_setI=> /andP [->_]. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3651]:
```suggestion
Proof. by apply: sub_bigmax => t; rewrite in_setI => /andP[->]. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 22]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigmaxIr (A B : {set I}) F :
+  \big[max/x]_(i in B) F i >= \big[max/x]_(i in A :&: B) F i.
+Proof. under eq_bigl do rewrite setIC; exact: bigmaxIl. Qed.
+
+Lemma bigminIl (A B : {set I}) F :
+  \big[min/x]_(i in A) F i <= \big[min/x]_(i in A :&: B) F i.
+Proof. by apply: sub_bigmin=> t; rewrite in_setI=> /andP [->_]. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3659]:
```suggestion
Proof. by apply: sub_bigminv => t; rewrite in_setI => /andP[->]. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 23]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigminIr (A B : {set I}) F :
+  \big[min/x]_(i in B) F i <= \big[min/x]_(i in A :&: B) F i.
+Proof. under [E in _<=E]eq_bigl do rewrite setIC; exact: bigminIl. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3663]:
```suggestion
Proof. by under [leRHS]eq_bigl do rewrite setIC; apply: bigminIl. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 24]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigmaxD (A B : {set I}) F :
+  \big[max/x]_(i in B) F i >= \big[max/x]_(i in B :\: A) F i.
+Proof. by apply: sub_bigmax=> t; rewrite in_setD=> /andP [_->]. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3667]:
```suggestion
Proof. by apply: sub_bigmax => t; rewrite in_setD => /andP[_ ->]. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 25]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+
+Lemma bigminD (A B : {set I}) F :
+  \big[min/x]_(i in B) F i <= \big[min/x]_(i in B :\: A) F i.
+Proof. by apply: sub_bigmin=> t; rewrite in_setD=> /andP [_->]. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3671]:
```suggestion
Proof. by apply: sub_bigmin => t; rewrite in_setD => /andP[_ ->]. Qed.
```

File: mathcomp/ssreflect/order.v [hunk 26]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+  \big[max/x]_(i in A :|: B) F i = max (\big[max/x]_(i in A) F i) (\big[max/x]_(i in B) F i).
+Proof.
+apply: le_anti; rewrite ge_max bigmaxUl bigmaxUr !andbT; apply/bigmax_leP.
+split=> [|i /[!in_setU]/orP[iA|iB]]; first by rewrite le_max bigmax_ge_id.
+- by rewrite le_max le_bigmax_cond.
+- by rewrite le_max orbC le_bigmax_cond.
+Qed.
+
+Lemma bigminU (A B : {set I}) F :
+  \big[min/x]_(i in A :|: B) F i = min (\big[min/x]_(i in A) F i) (\big[min/x]_(i in B) F i).
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3683]: please cut the line before 80 chars

File: mathcomp/ssreflect/order.v [hunk 27]
```diff
@@ -3581,8 +3630,90 @@ rewrite le_max 2!ge_max ba fe /= andbT; have [//|/= af] := leP f a.
...
+Lemma bigmaxD (A B : {set I}) F :
+  \big[max/x]_(i in B) F i >= \big[max/x]_(i in B :\: A) F i.
+Proof. by apply: sub_bigmax=> t; rewrite in_setD=> /andP [_->]. Qed.
+
+Lemma bigminD (A B : {set I}) F :
+  \big[min/x]_(i in B) F i <= \big[min/x]_(i in B :\: A) F i.
+Proof. by apply: sub_bigmin=> t; rewrite in_setD=> /andP [_->]. Qed.
+
+Lemma bigmaxU (A B : {set I}) F :
+  \big[max/x]_(i in A :|: B) F i = max (\big[max/x]_(i in A) F i) (\big[max/x]_(i in B) F i).
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:3674]: please cut the line before 80 chars

**Comment by pPomCo** [comment]
Updated to match your suggestions. I hope it is ok now :-)
Thanks a lot for your advices.

**Review by proux01 — APPROVED** [review]
Thanks, I took the opportunity to also generalize `big_set0` and `big_set`, made a few minor changes and squashed. I'll merge when CI is green.
